US04382939
1,2,3,4-Tetrahydro-12H-naphtho[2',1':5,6]pyrano[3,4-c]pyridin-12-one
Prepared by the method described in Example 1 from 1-napthol (10.0 g, 0.069 moles) and 4-oxo-3-piperidinecarboxylate hydrochloride (9.6 g, 0.05 moles). Recrystallization from 2-propanol/N,N-dimethylformamide yielded the product (3.7 g), mp 227°-230° C.

reactant | 1-napthol | 0.069 moles, 10.0 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 4-oxo-3-piperidinecarboxylate hydrochloride | 0.05 moles, 9.6 g | Cl.O=C1C(CNCC1)C(=O)O
product | 1,2,3,4-Tetrahydro-12H-naphtho[2',1':5,6]pyrano[3,4-c]pyridin-12-one | 3.7 g | C1NCCC2=C1C(OC1=C2C=CC2=CC=CC=C21)=O | C16H13NO2
